US06579328B2
2,4-Bis{N-butyl-N-[1-(2,4-dibromophenoxy)-2,2,6,6-tetra-methylpiperidin-4-yl]amino}-6-[N,N-bis(2-ethylhexyl)amino]-s-triazine
The procedure of Example 1 is repeated using 10 g (13 mmol) of 2,4-bis[N-butyl-N-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)amino]-6-[N,N-bis(2-ethylhexyl)amino]-s-triazine, 6.18 g (60 mmol) of tert-butyl nitrite, 7.8 mg (0.013 mmol) of (S,S)-(+)-N,N-bis(3,5-di-tert-butylsalicylidene)-1,2-cyclohexanediaminocobalt(II), 140 mL of pyridine and 13.05 g (52 mmol) of 2,4-dibromoaniline at 85° C. The crude product obtained is purified by vacuum flash chromatography (2% ethyl acetate/heptane) to give 7 g of the title compound as a light yellow solid in 43.4% yield. The structure is confirmed by 1Hnmr and elemental analysis.

reactant | 2,4-bis[N-butyl-N-(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl)amino]-6-[N,N-bis(2-ethylhexyl)amino]-s-triazine | 13 mmol, 10 g | C(CCC)N(C1CC(N(C(C1)(C)C)O)(C)C)C1=NC(=NC(=N1)N(CCCC)C1CC(N(C(C1)(C)C)O)(C)C)N(CC(CCCC)CC)CC(CCCC)CC | C45H88N8O2
reactant | tert-butyl nitrite | 60 mmol, 6.18 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2,4-dibromoaniline | 52 mmol, 13.05 g | BrC1=C(N)C=CC(=C1)Br | C6H5Br2N
solvent | pyridine | 140 mL | N1=CC=CC=C1 | C5H5N
product | 2,4-Bis{N-butyl-N-[1-(2,4-dibromophenoxy)-2,2,6,6-tetra-methylpiperidin-4-yl]amino}-6-[N,N-bis(2-ethylhexyl)amino]-s-triazine | 7 g, 43.4% yield | C(CCC)N(C1CC(N(C(C1)(C)C)OC1=C(C=C(C=C1)Br)Br)(C)C)C1=NC(=NC(=N1)N(CCCC)C1CC(N(C(C1)(C)C)OC1=C(C=C(C=C1)Br)Br)(C)C)N(CC(CCCC)CC)CC(CCCC)CC | C57H92Br4N8O2
